### PR TITLE
feat(Order/ScottContinuity): Scott continuity on product spaces

### PR DESCRIPTION
**Pull request by mans0954**
Some further results on Scott Continuity:

- `scottContinuous_iff_map_sSup`: `f` is Scott continuous if and only if it commutes with `sSup` on directed sets
- `ScottContinuous_prod_of_ScottContinuous`: `f` is Scott continuous on a product space if it is Scott continuous in each variable
- `ScottContinuousOn.inf₂`: For complete linear orders, the meet operation is Scott continuous

---

- [x] depends on: #13201 - I think this is due to the move of the definition of Scott Continuity into its own file rather than a hard dependency.
- [x] depends on: #19150
- [x] depends on:  #19222
- [x] depends on:#20254
- [x] depends on: #21493

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by mans0954** [comment]
@YaelDillies do you have any time to review this PR please?

File: Mathlib/Order/ScottContinuity/Complete.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
...
+    a ⊓ sSup d = sSup ((fun b ↦ a ⊓ b) '' d) := eq_of_forall_ge_iff fun _ => by
+  simp only [inf_le_iff, sSup_le_iff, ← forall_or_left, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+
+lemma sSup_inf_eq_sSup_map (b : β) (d : Set β) :
+    sSup d ⊓ b = sSup ((fun a ↦ a ⊓ b) '' d) := eq_of_forall_ge_iff fun _ => by
+  simp [inf_le_iff, sSup_le_iff, ← forall_or_right, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+
+lemma left_cont_inf (a : β) : ScottContinuous fun b ↦ a ⊓ b := by
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Complete.lean]:
```suggestion
lemma scottContinuous_inf_right (a : β) : ScottContinuous fun b ↦ a ⊓ b := by
```

File: Mathlib/Order/ScottContinuity/Complete.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+  refine ScottContinuous.of_map_sSup (fun d _ _ ↦ by rw [inf_sSup_eq_sSup_map])
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Complete.lean]:
```suggestion
lemma left_cont_inf (a : β) : ScottContinuous fun b ↦ a ⊓ b :=
  .of_map_sSup fun d _ _ ↦ by rw [inf_sSup_eq_sSup_map]
```

File: Mathlib/Order/ScottContinuity/Complete.lean [hunk 3]
```diff
@@ -0,0 +1,62 @@
...
+
+lemma right_cont_inf (b : β) : ScottContinuous fun a ↦ a ⊓ b := by
+  refine ScottContinuous.of_map_sSup (fun d _ _ ↦ by rw [sSup_inf_eq_sSup_map])
+
+/- The meet operation is Scott continuous -/
+lemma ScottContinuousOn.inf₂ : ScottContinuous fun (a, b) => (a ⊓ b : β) :=
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Complete.lean]:
```suggestion
lemma ScottContinuous.inf₂ : ScottContinuous fun (a, b) => (a ⊓ b : β) :=
```

File: Mathlib/Order/ScottContinuity/Complete.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+
+lemma inf_sSup_eq_sSup_map   (a : β) (d : Set β) :
+    a ⊓ sSup d = sSup ((fun b ↦ a ⊓ b) '' d) := eq_of_forall_ge_iff fun _ => by
+  simp only [inf_le_iff, sSup_le_iff, ← forall_or_left, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+
+lemma sSup_inf_eq_sSup_map (b : β) (d : Set β) :
+    sSup d ⊓ b = sSup ((fun a ↦ a ⊓ b) '' d) := eq_of_forall_ge_iff fun _ => by
+  simp [inf_le_iff, sSup_le_iff, ← forall_or_right, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Complete.lean]: These two already exist. Look around `CompleteDistribLattice`

Comment (mans0954) [reply Mathlib/Order/ScottContinuity/Complete.lean]: Well, I can `rw [inf_sSup_eq]` which gives me:
```
⨆ b ∈ d, min a b = sSup ((fun b ↦ min a b) '' d)
```
But then I can't see where to go after that.

Comment (YaelDillies) [reply Mathlib/Order/ScottContinuity/Complete.lean]: [`sSup_image`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Basic.html#sSup_image)

File: Mathlib/Order/ScottContinuity/Prod.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+      exact h₁ _ (mem_image_of_mem (fun d ↦ Prod.snd '' d) hX) (Nonempty.image Prod.snd hd₁)
+        (DirectedOn.snd hd₂) ((isLUB_prod (_,_)).mp hdp).2) _, Set.range]
+  convert (h₂ _
+    (mem_image_of_mem (fun d ↦ Prod.fst '' d) hX) (Nonempty.image Prod.fst hd₁) (DirectedOn.fst hd₂)
+    ((isLUB_prod (p1,p2)).mp hdp).1)
+  ext : 1
+  simp_all only [Prod.forall, Prod.mk_le_mk, and_imp, Subtype.exists, mem_image, Prod.exists,
+    exists_and_right, exists_eq_right, exists_prop, mem_setOf_eq]
+
+lemma ScottContinuous_prod_of_ScottContinuous {γ : Type*} [Preorder α] [Preorder β] [Preorder γ]
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Prod.lean]:
```suggestion
lemma ScottContinuous.fromProd {γ : Type*} [Preorder α] [Preorder β] [Preorder γ]
```
maybe?? Can you also add `ScottContinuous.prod (hf : ScottContinuous f) (hg : ScottContinuous g) : ScottContinuous (Prod.map f g)`?

**Review by YaelDillies — COMMENTED** [review]
I don't really like the new files. Can everything be put in the existing file?

File: Mathlib/Order/ScottContinuity/Prod.lean [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+
+-/
+
+open Set
+
+variable {α β γ : Type*}
+
+/- `f` is Scott continuous on a product space if it is Scott continuous and monotone in each
+variable -/
+lemma ScottContinuousOn_prod_of_ScottContinuousOn [Preorder α] [Preorder β] [Preorder γ]
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Prod.lean]:
```suggestion
lemma ScottContinuousOn.fromProd [Preorder α] [Preorder β] [Preorder γ]
```

File: Mathlib/Order/ScottContinuity/Prod.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
...
+  convert (h₂ _
+    (mem_image_of_mem (fun d ↦ Prod.fst '' d) hX) (Nonempty.image Prod.fst hd₁) (DirectedOn.fst hd₂)
+    ((isLUB_prod (p1,p2)).mp hdp).1)
+  ext : 1
+  simp_all only [Prod.forall, Prod.mk_le_mk, and_imp, Subtype.exists, mem_image, Prod.exists,
+    exists_and_right, exists_eq_right, exists_prop, mem_setOf_eq]
+
+lemma ScottContinuous.fromProd {γ : Type*} [Preorder α] [Preorder β] [Preorder γ]
+    {f : α × β → γ} (h₁ : ∀ a, ScottContinuous (fun b => f (a,b)))
+    (h₂ : ∀ b, ScottContinuous (fun a => f (a,b))) : ScottContinuous f := by
```
Comment (YaelDillies) [inline Mathlib/Order/ScottContinuity/Prod.lean]: Can you show the corresponding iff?

**Comment by mans0954** [comment]
> I don't really like the new files. Can everything be put in the existing file?

It can... but we get the `large-import` label applied then.

**Comment by mans0954** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26338
